US07119073B2
A solution of Fmoc-S-trityl-L-cysteine (10.0 g, 17.1 mmol), in DCM containing 15% trifluoroacetic acid (TFA) and 5% TES (total volume 150 mL) was stirred at room temperature. After 10 min the reaction was evaporated to dryness, the solid residue was washed three times with 150 mL n-pentane and then dried under high vacuum. 4.46 g of Fmoc-L-cysteine was obtained as a colorless solid. This material was dissolved in DCM (20 mL) containing 7% TFA. 1.0 g Trityl chloride resin (Novabiochem, loading 2.05 mmol of active chlorine) was added in one portion. The solution was slowly agitated overnight (orbital shaker, or slow stirring on a magnetic stirrer). The resin was isolated on a sintered glass funnel, washed with DCM (5×40 mL), methanol (1×40 mL) and again with DCM and dried overnight in vacuo.

reactant | Fmoc-S-trityl-L-cysteine | 17.1 mmol, 10.0 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C37H31NO4S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Fmoc-L-cysteine | 4.46 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CS)C(=O)O | C18H17NO4S
